US07262212B2
A mixture of 2-(4-bromophenoxy)-tetrahydropyran (7.8 g, 30.3 mmol), piperazine (15.7 g, 180 mmol), palladium acetate (136 mg, 0.61 mmol), BINAP (567 mg, 0.91 mmol) and sodium tert-butoxide (3.8 g, 39.4 mmol) in toluene (50 ml) was refluxed under a nitrogen atmosphere for 2 hours. Ethyl acetate and water were added to the reaction mixture, which was stirred for a while. The insoluble substances were removed by filtration through Celite, and the filtrate was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=20/1) to afford 1-[4-(tetrahydropyran-2-yloxy)phenyl]piperazine (6.8 g, yield 85%) as a pale gray powder.

reactant | 2-(4-bromophenoxy)-tetrahydropyran | 30.3 mmol, 7.8 g | BrC1=CC=C(OC2OCCCC2)C=C1 | C11H13BrO2
reactant | piperazine | 180 mmol, 15.7 g | N1CCNCC1 | C4H10N2
reactant | sodium tert-butoxide | 39.4 mmol, 3.8 g | CC(C)([O-])C.[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.61 mmol, 136 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 0.91 mmol, 567 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | water | O | H2O
product | 1-[4-(tetrahydropyran-2-yloxy)phenyl]piperazine | 6.8 g, yield 85% | O1C(CCCC1)OC1=CC=C(C=C1)N1CCNCC1 | C15H22N2O2
